US07629362B2
Phenol (135 mg; 1.43 mmol) and 540 mg (1.66 mol) of cesium carbonate were added to a solution (3 ml) of 84 mg (0.292 mmol) of 3,6-dichloro-N-(4-methyl-thiazole-2-yl)-2-pyridine carboxamide in N,N-dimethylformamide followed by stirring at 120° C. for 24 hours. Aqueous solution (1N) of sodium hydroxide was added to the reaction solution followed by extracting with ethyl acetate. The organic layer was washed with water and a saturated aqueous saline solution, dried and concentrated in vacuo. The resulting residue was purified by a thin-layer silica gel chromatography (hexane:ethyl acetate=4:1) to give 61 mg (yield: 61%) of 3-chloro-6-phenoxy-N-(4-methyl-thiazole-2-yl)-2-pyridine carboxamide as a white solid.

reactant | Phenol | 1.43 mmol, 135 mg | C1(=CC=CC=C1)O | C6H6O
reactant | cesium carbonate | 1.66 mol, 540 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3,6-dichloro-N-(4-methyl-thiazole-2-yl)-2-pyridine carboxamide | 0.292 mmol, 84 mg | ClC=1C(=NC(=CC1)Cl)C(=O)NC=1SC=C(N1)C | C10H7Cl2N3OS
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3-chloro-6-phenoxy-N-(4-methyl-thiazole-2-yl)-2-pyridine carboxamide | 61 mg, yield: 61% | ClC=1C(=NC(=CC1)OC1=CC=CC=C1)C(=O)NC=1SC=C(N1)C | C16H12ClN3O2S
